US06489487B1
A mixture of 624 mg (2.0 mmol) of 4-(5-bromo-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 299 of the present invention), 1.50 g (18.3 mmol) of tert-butyl acetylene, 67 mg (0.095 irmmol) of PdCl2(PPh3)2, 33 mg (0.17 mmol) of copper (I) iodide, 106 mg (0.40 mmol) of triphenylphosphine and 1.5 g of triethylamine in 8 ml of acetonitrile was stirred at room temperature under an atmosphere of nitrogen for 31 hours. The reaction mixture was diluted with ethyl acetate, washed with water, dried and concentrated. The residue was subjected to silica gel column chromatography (eluted with hexane:ethyl acetate=6:1) to obtain 0.21 g (0.66 mmol) of 4-{5-(3,3-dimethyl-1-butynyl)-2-methylbenzyl}-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 526 of the present invention).

reactant | 4-(5-bromo-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 2.0 mmol, 624 mg | BrC=1C=CC(=C(CN2C(N(N=C2OC)C)=O)C1)C | C12H14BrN3O2
reactant | tert-butyl acetylene | 18.3 mmol, 1.50 g | C(C)(C)(C)C#C | C6H10
reactant | triphenylphosphine | 0.40 mmol, 106 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(PPh3)2 | 67 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.17 mmol, 33 mg | [Cu]I
product | 4-{5-(3,3-dimethyl-1-butynyl)-2-methylbenzyl}-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.66 mmol, 0.21 g | CC(C#CC=1C=CC(=C(CN2C(N(N=C2OC)C)=O)C1)C)(C)C | C18H23N3O2
